US04124596
Ethyl 2-{4-(thieno[2,3-b]thien-2-yl)carbonyl-phenyl}-2-methyl-malonate (16.23 g) is suspended in a mixture of 5% (w/v) aqueous sodium hydroxide solution (90 cc) and ethanol (90 cc), and the suspension is heated at the boiling point for 3 hours. After cooling, the reaction mixture is diluted with distilled water (1000 cc), and then extracted three times with diethyl ether (total 600 cc). The aqueous phase is filtered off, acidified to pH 1 by the addition of a 5N aqueous hydrochloric acid solution and extracted three times with diethyl ether (total 600 cc). The combined ether solutions are washed three times with distilled water (total 300 cc), dried over anhydrous sodium sulphate, decolourizing charcoal (1 g) is added, and the solutions are filtered and evaporated. Crude 2-{4-(thieno[2,3-b]thien-2-yl)carbonyl-phenyl}propionic acid (9.9 g), melting at 150° C., is thus obtained.

reactant | Ethyl 2-{4-(thieno[2,3-b]thien-2-yl)carbonyl-phenyl}-2-methyl-malonate | 16.23 g | S1C(=CC2=C1SC=C2)C(=O)C2=CC=C(C=C2)C(C(=O)OCC)(C(=O)[O-])C
solvent | sodium hydroxide | 90 cc | [OH-].[Na+]
solvent | ethanol | 90 cc | C(C)O | C2H6O
solvent | water | 1000 cc | O | H2O
product | 2-{4-(thieno[2,3-b]thien-2-yl)carbonyl-phenyl}propionic acid | 9.9 g | S1C(=CC2=C1SC=C2)C(=O)C2=CC=C(C=C2)C(C(=O)O)C | C16H12O3S2
